US07125901B2
Ethyl 4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}benzenecarboximidoate hydrochloride (300 mg) was dissolved in ethanol (6 ml). Then ammonium chloride (68 mg) and ammonia in methanol (1 ml) were added to the solution. The reaction mixture was refluxed for 5 hours under nitrogen atmosphere. After cooled to room temperature, the suspension was filtered in vacuo. The filtrate was concentrated in vacuo, and the residue was solidified with ethanol/diethyl ether to give N-[4-(2-{4-[amino(imino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide hydrochloride (234 mg) as a colorless solid.

reactant | Ethyl 4-{2-[2-(acetylamino)-1,3-thiazol-4-yl]ethyl}benzenecarboximidoate hydrochloride | 300 mg | Cl.C(C)(=O)NC=1SC=C(N1)CCC1=CC=C(C=C1)C(OCC)=N
reactant | ammonium chloride | 68 mg | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | methanol | 1 ml | CO | CH4O
product | N-[4-(2-{4-[amino(imino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide hydrochloride | 234 mg | Cl.NC(C1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O)=N | InChI=1S/C14H16N4OS.ClH/c1-9(19)17-14-18-12(8-20-14)7-4-10-2-5-11(6-3-10)13(15)16;/h2-3,5-6,8H,4,7H2,1H3,(H3,15,16)(H,17,18,19);1H
